### PR TITLE
[Merged by Bors] - feat: Definition and Basic Properties of the Ternary Cantor Set

### PR DESCRIPTION
**Pull request by JanaGoeken**
The group of Artur Szafarczyk, Suraj Krishna M S, JB Stiegler, Isabelle Dubois, Tomáš Jakl, Lorenzo Zanichelli, Alina Yan, Emilie Uthaiwat, and I worked on a project of formalizing the ternary cantor set in the course of the LFTCM2024 workshop under the guidance of Filippo A. E. Nuccio.

---

Here are our first results. We are mostly Lean beginners, so please feel free to explain your suggestions.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 1]
```diff
@@ -0,0 +1,99 @@
...
+lemma zero_mem_preCantorSet (n : ℕ) : 0 ∈ preCantorSet n := by
+  induction n with
+  | zero =>
+    simp [preCantorSet]
+  | succ n ih =>
+    exact Or.inl ⟨0, ih, by simp only [zero_div]⟩
+
+theorem zero_mem_cantorSet : 0 ∈ cantorSet := by
+  simp only [cantorSet, iInf, Set.sInf_eq_sInter, Set.sInter_range, Set.mem_iInter]
+  exact zero_mem_preCantorSet
```
Comment (riccardobrasca) [inline Mathlib/Topology/Instances/CantorSet.lean:69]:
```suggestion
theorem zero_mem_cantorSet : 0 ∈ cantorSet := by
  simp only [cantorSet, iInf, Set.sInf_eq_sInter, Set.sInter_range, Set.mem_iInter]
  exact zero_mem_preCantorSet
```
```suggestion
theorem zero_mem_cantorSet : 0 ∈ cantorSet := by simp [cantorSet, zero_mem_preCantorSet]
```
untested.

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 2]
```diff
@@ -0,0 +1,99 @@
...
+
+
+/-- The ternary Cantor set is a subset of [0,1]. -/
+lemma cantorSet_subset_unitInterval : cantorSet ⊆ Set.Icc 0 1 := by
+  intro x hx
+  simp only [cantorSet, Set.iInf_eq_iInter, Set.mem_iInter] at hx
+  exact hx 0
+
+/-- The ternary Cantor set is closed. -/
+lemma isClosed_cantorSet : IsClosed cantorSet  := by
```
Comment (riccardobrasca) [inline Mathlib/Topology/Instances/CantorSet.lean:79]: This should be an instance.

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 3]
```diff
@@ -0,0 +1,99 @@
...
+def cantorSet := iInf preCantorSet
+
+
+
+/-!
+## Simple Properties
+-/
+
+/-- The ternary Cantor set inherits the metric and in particular the topology from the reals. -/
+instance cantorSet.metricSpace : MetricSpace cantorSet := Subtype.metricSpace
```
Comment (YaelDillies) [inline Mathlib/Topology/Instances/CantorSet.lean:37]: You don't need to write this instance explicitly.
```suggestion
```
It is already automatically inferred as you can check by doing
```
instance cantorSet.metricSpace : MetricSpace cantorSet := inferInstance
```
or
```
#synth MetricSpace cantorSet
```

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 4]
```diff
@@ -0,0 +1,99 @@
...
+is `cantorSet`.
+-/
+
+/-- We define the preCantorSet as the preimages under the iterations of some functions. -/
+def preCantorSet : ℕ → Set ℝ
+  | 0 => Set.Icc 0 1
+  | Nat.succ n => (· / 3) '' preCantorSet n ∪ (fun x ↦ (2 + x) / 3)  '' preCantorSet n
+
+/-- We define the Cantor set as the limit of all preCantorSets. -/
+def cantorSet := iInf preCantorSet
```
Comment (YaelDillies) [inline Mathlib/Topology/Instances/CantorSet.lean:28]:
```suggestion
def cantorSet := iInter preCantorSet
```
or, more readably,
```suggestion
def cantorSet : ℝ := ⋂ n, preCantorSet n
```

File: Mathlib/Topology/Instances/CantorSet.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Topology/Instances/CantorSet.lean:79]: Uh, really?

Comment (riccardobrasca) [reply Mathlib/Topology/Instances/CantorSet.lean:79]: `IsClosed` is a class, so I guess this can work. But you're right that most of the time we don't do that.

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 5]
```diff
@@ -0,0 +1,99 @@
...
+
+/-!
+## Simple Properties
+-/
+
+/-- The ternary Cantor set inherits the metric and in particular the topology from the reals. -/
+instance cantorSet.metricSpace : MetricSpace cantorSet := Subtype.metricSpace
+
+
+lemma quarters_mem_preCantorSet (n : ℕ) : 1/4 ∈ preCantorSet n ∧ 3/4 ∈ preCantorSet n := by
```
[the remark this answers is not in the document]
Comment (jaklt) [reply Mathlib/Topology/Instances/CantorSet.lean:40]: The fact of the matter is that this can't really be split because the proof goes inductively to show that 1/4 is in ``preCantorSet n`` we need that 3/4 is in `preCantorSet (n-1)`` and vice versa.

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 6]
```diff
@@ -0,0 +1,99 @@
...
+  induction n with
+  | zero =>
```
[the remark this answers is not in the document]
Comment (jaklt) [reply Mathlib/Topology/Instances/CantorSet.lean:42]: I'm sorry but I don't understand. ``preCantorSet 0`` is defined as ``Set.Icc 0 1``. What is the lemma that you think should be added? Something like "for every x in preCantorSet 0, x is greater than 0 and smaller than 1"? That's what's needed here.

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 7]
```diff
@@ -0,0 +1,99 @@
...
+    simp only [preCantorSet, Set.mem_Icc, inv_nonneg, Nat.ofNat_nonneg, true_and]
+    refine ⟨⟨?_, ?_ ⟩,?_,?_⟩ <;> linarith
+
+  | succ n ih =>
+    apply And.intro
+    · -- goal: 1 / 4 ∈ preCantorSet n
+      exact Or.inl ⟨3/4, ih.2, by simp only; linarith ⟩
```
[the remark this answers is not in the document]
Comment (jaklt) [reply Mathlib/Topology/Instances/CantorSet.lean:49]: My confusion is the same as above, what lemma do you think is missing? ``preCantorSet (n+1)`` is already described as a union of two sets.

File: Mathlib/Topology/Instances/CantorSet.lean (hunk 6 above)
[the remark this answers is not in the document]
Comment (riccardobrasca) [reply Mathlib/Topology/Instances/CantorSet.lean:42]: No no, I literally mean this lemma, is proof will indeed be `rfl`, since as you say it is true by definition. There are several reason to do that, for example tagging it `simp` will make possible to prove stuff like `0 ∈ preCantorSet 0` simply writing `simp` (now you have to write `simp [preCantorSet]`, that is not very longer, but things can be more complicated).

File: Mathlib/Topology/Instances/CantorSet.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Topology/Instances/CantorSet.lean:79]: Unless there is a later need for `IsClosed cantorSet` to found by typeclass search, I want to say this can stay a lemma

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 8]
```diff
@@ -0,0 +1,99 @@
...
+This file contains the definition of the Cantor ternary set
+as well as some first properties, which will be updated later.
+
+## Main Definitions
+We give a definition for the ternary Cantor set in this file, which
+is `cantorSet`.
+-/
+
+/-- We define the preCantorSet as the preimages under the iterations of some functions. -/
+def preCantorSet : ℕ → Set ℝ
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Topology/Instances/CantorSet.lean:23]: Maybe something like
```suggestion
/-- The pre-Cantor set of order `n` is defined inductively by starting from `[0, 1]` and successively
removing the middle thirds. -/
def preCantorSet : ℕ → Set ℝ
```

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 9]
```diff
@@ -0,0 +1,99 @@
...
+  | 0 => Set.Icc 0 1
+  | Nat.succ n => (· / 3) '' preCantorSet n ∪ (fun x ↦ (2 + x) / 3)  '' preCantorSet n
+
+/-- We define the Cantor set as the limit of all preCantorSets. -/
```
Comment (YaelDillies) [inline Mathlib/Topology/Instances/CantorSet.lean:27]:
```suggestion
/-- The Cantor set is the intersection of all pre-Cantor sets. -/
```

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 10]
```diff
@@ -0,0 +1,99 @@
...
+
+## Main Definitions
+We give a definition for the ternary Cantor set in this file, which
+is `cantorSet`.
+-/
+
+/-- We define the preCantorSet as the preimages under the iterations of some functions. -/
+def preCantorSet : ℕ → Set ℝ
+  | 0 => Set.Icc 0 1
+  | Nat.succ n => (· / 3) '' preCantorSet n ∪ (fun x ↦ (2 + x) / 3)  '' preCantorSet n
```
Comment (YaelDillies) [inline Mathlib/Topology/Instances/CantorSet.lean:25]: More idiomatically,
```suggestion
  | n + 1 => (· / 3) '' preCantorSet n ∪ (fun x ↦ (2 + x) / 3) '' preCantorSet n
```

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 11]
```diff
@@ -0,0 +1,99 @@
...
+
```
Comment (YaelDillies) [inline Mathlib/Topology/Instances/CantorSet.lean:26]: As Riccardo indicated, the following two theorems will make your life easier:
```suggestion

@[simp] lemma preCantorSet_zero : preCantorSet 0 = Set.Icc 0 1 := rfl
@[simp] lemma preCantorSet_succ (n : ℕ) :
    preCantorSet (n + 1) = (· / 3) '' preCantorSet n ∪ (fun x ↦ (2 + x) / 3) '' preCantorSet n :=
  rfl
```

File: Mathlib/Topology/Instances/CantorSet.lean (hunk 2 above)
Comment (YaelDillies) [inline Mathlib/Topology/Instances/CantorSet.lean:79]:
```suggestion
lemma isClosed_cantorSet : IsClosed cantorSet := by
```

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 12]
```diff
@@ -0,0 +1,99 @@
...
+/-- The ternary Cantor set is a subset of [0,1]. -/
+lemma cantorSet_subset_unitInterval : cantorSet ⊆ Set.Icc 0 1 := by
+  intro x hx
+  simp only [cantorSet, Set.iInf_eq_iInter, Set.mem_iInter] at hx
+  exact hx 0
+
+/-- The ternary Cantor set is closed. -/
+lemma isClosed_cantorSet : IsClosed cantorSet  := by
+  let f := Homeomorph.mulLeft₀ (1/3:ℝ) (by norm_num)
+  let g :=  (Homeomorph.addLeft (2:ℝ)).trans f
```
Comment (YaelDillies) [inline Mathlib/Topology/Instances/CantorSet.lean:81]:
```suggestion
  let g := (Homeomorph.addLeft (2:ℝ)).trans f
```

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 13]
```diff
@@ -0,0 +1,99 @@
...
+  induction n with
+  | zero =>
+    exact isClosed_Icc
+  | succ n ih =>
+    refine IsClosed.union ?_ ?_
+    · refine (ClosedEmbedding.closed_iff_image_closed ?succ.refine_1.hf).mp ih
+      convert f.closedEmbedding using 2
+      simp [f, div_eq_inv_mul]
+    · refine (ClosedEmbedding.closed_iff_image_closed ?succ.refine_2.hf).mp ih
+      convert  g.closedEmbedding using 2
```
Comment (YaelDillies) [inline Mathlib/Topology/Instances/CantorSet.lean:93]:
```suggestion
      convert g.closedEmbedding using 2
```

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 14]
```diff
@@ -0,0 +1,99 @@
...
+import Mathlib.Topology.Instances.Real
+
+/-!
+# Ternary Cantor Set
+This file contains the definition of the Cantor ternary set
+as well as some first properties, which will be updated later.
+
+## Main Definitions
+We give a definition for the ternary Cantor set in this file, which
+is `cantorSet`.
```
Comment (YaelDillies) [inline Mathlib/Topology/Instances/CantorSet.lean:19]:
```suggestion
# Ternary Cantor Set

This file defines the Cantor ternary set and proves a few properties.

## Main Definitions

* `preCantorSet n`: The order `n` pre-Cantor set, defined inductively.
* `cantorSet`: The ternary Cantor set, defined as the intersection of all
  pre-Cantor sets.
```

File: Mathlib/Topology/Instances/CantorSet.lean (hunk 11 above)
Comment (jaklt) [reply Mathlib/Topology/Instances/CantorSet.lean:26]: Thank you, I finally understand. Very interesting that this actually helps with anything.

Comment (YaelDillies) [reply Mathlib/Topology/Instances/CantorSet.lean:26]: If you want something to look up, those are called "equational lemmas". Lean in fact knows how to generate them, and this is what `simp` rewrites with when you write `simp [preCantorSet]` (in particular, it does *not* just unfold the definition of `preCantorSet`), however it is good practice to write them yourself as
1. Lean is kind of inconsistent as to how those equational lemmas should look like, eg in a recent Lean 4 version there would be a single equational lemma of the form `preCantorSet n = match n with | 0 => Set.Icc 0 1 | n + 1 => ...` instead of the pair `preCantorSet_zero`, `preCantorSet_succ` that I wrote about
2. If your definition ever changes, the autogenerated equational lemmas will too, which is undesirable from an API stability perspective

Comment (jaklt) [reply Mathlib/Topology/Instances/CantorSet.lean:26]: understood, thanks!

**Comment by jaklt** [comment]
I would personally accept all suggested changes but it seems that only @JanaGoeken can actually do that. I'll ask her.

Apart from that, is anything else stopping this PR to go through?

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 15]
```diff
@@ -0,0 +1,103 @@
...
+
+
+/-!
+## Simple Properties
+-/
+
+/-- The ternary Cantor set inherits the metric and in particular the topology from the reals. -/
+instance cantorSet.metricSpace : MetricSpace cantorSet := inferInstance
+
+
```
Comment (YaelDillies) [inline Mathlib/Topology/Instances/CantorSet.lean:45]:
```suggestion
```

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 16]
```diff
@@ -0,0 +1,103 @@
...
+lemma quarters_mem_preCantorSet (n : ℕ) : 1/4 ∈ preCantorSet n ∧ 3/4 ∈ preCantorSet n := by
+  induction n with
+  | zero =>
+    simp only [preCantorSet_zero, inv_nonneg]
+    refine ⟨⟨ ?_, ?_⟩ , ⟨ ?_, ?_ ⟩⟩ <;> linarith
```
Comment (YaelDillies) [inline Mathlib/Topology/Instances/CantorSet.lean:50]: Pointy brackets right-associate
```suggestion
    refine ⟨⟨?_, ?_⟩, ?_, ?_⟩ <;> linarith
```

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 17]
```diff
@@ -0,0 +1,103 @@
...
+  | succ n ih =>
+    refine IsClosed.union ?_ ?_
+    · refine (ClosedEmbedding.closed_iff_image_closed ?succ.refine_1.hf).mp ih
+      convert f.closedEmbedding using 2
+      simp [f, div_eq_inv_mul]
+    · refine (ClosedEmbedding.closed_iff_image_closed ?succ.refine_2.hf).mp ih
+      convert g.closedEmbedding using 2
+      simp [g, f, div_eq_inv_mul]
+
+
```
Comment (YaelDillies) [inline Mathlib/Topology/Instances/CantorSet.lean:100]:
```suggestion

```

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 18]
```diff
@@ -0,0 +1,103 @@
...
+lemma zero_mem_preCantorSet (n : ℕ) : 0 ∈ preCantorSet n := by
+  induction n with
+  | zero =>
+    simp [preCantorSet]
+  | succ n ih =>
+    exact Or.inl ⟨0, ih, by simp only [zero_div]⟩
+
+theorem zero_mem_cantorSet : 0 ∈ cantorSet := by simp [cantorSet, zero_mem_preCantorSet]
+
+
```
Comment (YaelDillies) [inline Mathlib/Topology/Instances/CantorSet.lean:75]:
```suggestion

```

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 19]
```diff
@@ -0,0 +1,103 @@
...
+/-- We define the preCantorSet as the preimages under the iterations of some functions. -/
+def preCantorSet : ℕ → Set ℝ
+  | 0 => Set.Icc 0 1
+  | n + 1 => (· / 3) '' preCantorSet n ∪ (fun x ↦ (2 + x) / 3) '' preCantorSet n
+
+@[simp] lemma preCantorSet_zero : preCantorSet 0 = Set.Icc 0 1 := rfl
+@[simp] lemma preCantorSet_succ (n : ℕ) :
+    preCantorSet (n + 1) = (· / 3) '' preCantorSet n ∪ (fun x ↦ (2 + x) / 3) '' preCantorSet n :=
+  rfl
```
Comment (YaelDillies) [inline Mathlib/Topology/Instances/CantorSet.lean:32]:
```suggestion
  rfl

```

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 20]
```diff
@@ -0,0 +1,103 @@
...
+/-- The Cantor set is the intersection of all pre-Cantor sets. -/
+def cantorSet : Set ℝ := ⋂ n, preCantorSet n
+
+
+
```
Comment (YaelDillies) [inline Mathlib/Topology/Instances/CantorSet.lean:37]:
```suggestion

```

File: Mathlib/Topology/Instances/CantorSet.lean (hunk 8 above)
[the remark this answers is not in the document]
Comment (j-loreaux) [reply Mathlib/Topology/Instances/CantorSet.lean:25]: It doesn't seem like these comments were ever addressed.

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 21]
```diff
@@ -0,0 +1,99 @@
...
+  | succ n ih =>
+    apply And.intro
+    · -- goal: 1/4 ∈ preCantorSet n
+      -- follows by the inductive hyphothesis, since 3/4 ∈ preCantorSet (n-1)
+      exact Or.inl ⟨3/4, ih.2, by simp only; linarith ⟩
+
+    · -- goal: 3/4 ∈ preCantorSet n
+      -- follows by the inductive hyphothesis, since 1/4 ∈ preCantorSet (n-1)
+      exact Or.inr ⟨1/4, ih.1, by simp only; linarith ⟩
```
Comment (j-loreaux) [inline Mathlib/Topology/Instances/CantorSet.lean:56]: Several minor points:
1. the correct tactic to use here is `norm_num`, not `linarith`, despite the fact that the latter works.
2. style nit: we don't insert blank lines into proofs
3. I don't think the comments are really necessary, but if you want to keep them that's fine. However, they're not quite correct as stated.
4. another style nit: we try to put spaces around binary operations, so `1 / 4` instead of `1/4`.
```suggestion
    simp only [preCantorSet_zero, inv_nonneg]
    refine ⟨⟨ ?_, ?_⟩, ?_, ?_⟩ <;> norm_num
  | succ n ih =>
    apply And.intro
    · -- goal: 1 / 4 ∈ preCantorSet (n + 1)
      -- follows by the inductive hyphothesis, since 3 / 4 ∈ preCantorSet n
      exact Or.inl ⟨3 / 4, ih.2, by norm_num⟩
    · -- goal: 3 / 4 ∈ preCantorSet (n + 1)
      -- follows by the inductive hyphothesis, since 1 / 4 ∈ preCantorSet n
      exact Or.inr ⟨1 / 4, ih.1, by norm_num⟩
```

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 22]
```diff
@@ -0,0 +1,99 @@
...
+  | succ n ih =>
+    exact Or.inl ⟨0, ih, by simp only [zero_div]⟩
+
+theorem zero_mem_cantorSet : 0 ∈ cantorSet := by simp [cantorSet, zero_mem_preCantorSet]
+
+/-- The ternary Cantor set is a subset of [0,1]. -/
+lemma cantorSet_subset_unitInterval : cantorSet ⊆ Set.Icc 0 1 := by
+  intro x hx
+  simp only [cantorSet, Set.iInf_eq_iInter, Set.mem_iInter] at hx
+  exact hx 0
```
Comment (j-loreaux) [inline Mathlib/Topology/Instances/CantorSet.lean:77]: We have a lemma for this :smile:
```suggestion
lemma cantorSet_subset_unitInterval : cantorSet ⊆ Set.Icc 0 1 :=
  Set.iInter_subset _ 0
```

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 23]
```diff
@@ -0,0 +1,99 @@
...
+
+    · -- goal: 3/4 ∈ preCantorSet n
+      -- follows by the inductive hyphothesis, since 1/4 ∈ preCantorSet (n-1)
+      exact Or.inr ⟨1/4, ih.1, by simp only; linarith ⟩
+
+lemma quarter_mem_preCantorSet (n : ℕ) : 1/4 ∈ preCantorSet n := (quarters_mem_preCantorSet n).1
+
+theorem quarter_mem_cantorSet : 1/4 ∈ cantorSet := by
+  simp only [cantorSet,iInf, Set.sInf_eq_sInter, Set.sInter_range, Set.mem_iInter]
+  exact quarter_mem_preCantorSet
```
Comment (j-loreaux) [inline Mathlib/Topology/Instances/CantorSet.lean:62]: We have a lemma for this too.
```suggestion
theorem quarter_mem_cantorSet : 1/4 ∈ cantorSet :=
  Set.mem_iInter.mpr quarter_mem_preCantorSet
```

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 24]
```diff
@@ -0,0 +1,99 @@
...
+  | zero =>
+    exact isClosed_Icc
+  | succ n ih =>
+    refine IsClosed.union ?_ ?_
+    · refine (ClosedEmbedding.closed_iff_image_closed ?succ.refine_1.hf).mp ih
+      convert f.closedEmbedding using 2
+      simp [f, div_eq_inv_mul]
+    · refine (ClosedEmbedding.closed_iff_image_closed ?succ.refine_2.hf).mp ih
+      convert g.closedEmbedding using 2
+      simp [g, f, div_eq_inv_mul]
```
Comment (j-loreaux) [inline Mathlib/Topology/Instances/CantorSet.lean:95]: it's generally undesirable to name goals with inscrutable names like `?succ.refine_1.hf`, and in this case, there's a simpler approach. Note that you can use dot notation to go directly from the homeomorphisms to closed embeddings.
```suggestion
    · simpa [f, div_eq_inv_mul] using f.closedEmbedding.closed_iff_image_closed.mp ih
    · simpa [g, f, div_eq_inv_mul] using g.closedEmbedding.closed_iff_image_closed.mp ih
```

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 25]
```diff
@@ -0,0 +1,99 @@
...
+/-- The ternary Cantor set is a subset of [0,1]. -/
+lemma cantorSet_subset_unitInterval : cantorSet ⊆ Set.Icc 0 1 := by
+  intro x hx
+  simp only [cantorSet, Set.iInf_eq_iInter, Set.mem_iInter] at hx
+  exact hx 0
+
+/-- The ternary Cantor set is closed. -/
+lemma isClosed_cantorSet : IsClosed cantorSet := by
+  let f := Homeomorph.mulLeft₀ (1/3:ℝ) (by norm_num)
+  let g := (Homeomorph.addLeft (2:ℝ)).trans f
```
Comment (j-loreaux) [inline Mathlib/Topology/Instances/CantorSet.lean:82]: style nit:
```suggestion
  let f := Homeomorph.mulLeft₀ (1 / 3 : ℝ) (by norm_num)
  let g := (Homeomorph.addLeft (2 : ℝ)).trans f
```

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 26]
```diff
@@ -0,0 +1,99 @@
...
+  apply isClosed_iInter
+  intro n
+  induction n with
+  | zero =>
+    exact isClosed_Icc
```
Comment (j-loreaux) [inline Mathlib/Topology/Instances/CantorSet.lean:87]: It's acceptable to put this on a single line.
```suggestion
  | zero => exact isClosed_Icc
```

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 27]
```diff
@@ -0,0 +1,99 @@
...
+theorem zero_mem_cantorSet : 0 ∈ cantorSet := by simp [cantorSet, zero_mem_preCantorSet]
+
+/-- The ternary Cantor set is a subset of [0,1]. -/
+lemma cantorSet_subset_unitInterval : cantorSet ⊆ Set.Icc 0 1 := by
+  intro x hx
+  simp only [cantorSet, Set.iInf_eq_iInter, Set.mem_iInter] at hx
+  exact hx 0
+
+/-- The ternary Cantor set is closed. -/
+lemma isClosed_cantorSet : IsClosed cantorSet := by
```
Comment (j-loreaux) [inline Mathlib/Topology/Instances/CantorSet.lean:80]: You might want this for `preCantor` sets at some point. Maybe factor that out as a lemma?

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 28]
```diff
@@ -0,0 +1,99 @@
...
+import Mathlib.Topology.Instances.Real
+
+/-!
+# Ternary Cantor Set
+
+This file defines the Cantor ternary set and proves a few properties.
+
+## Main Definitions
+
+* `preCantorSet n`: The order `n` pre-Cantor set, defined inductively.
```
Comment (j-loreaux) [inline Mathlib/Topology/Instances/CantorSet.lean:19]: I don't think `preCantorSet` is standard terminology, nor "order `n`", so maybe specify what you mean here. Maybe something like:
```suggestion
* `preCantorSet n`: The order `n` pre-Cantor set, defined inductively as the union of the images under the functions `(· ‌/ 3)` and `(2 * · / 3)`, with `preCantorSet 0 := Set.Icc 0 1`
```

**Review by j-loreaux — COMMENTED** [review]
Thanks! This is looking good, and it's great to see a PR from new contributors as a result of LftCM 2024. Hope you all had a great time there.

I've left some comments with explanations, so that it's easier for you to see why I'm suggesting these changes.

**Comment by j-loreaux** [comment]
I'd recommend changing the PR title to something slightly more informative, such as:

feat: definition and basic properties of the Cantor ternary set

File: Mathlib/Topology/Instances/CantorSet.lean (hunk 27 above)
Comment (JanaGoeken) [reply Mathlib/Topology/Instances/CantorSet.lean:86]: Good idea! I did that.

**Comment by JanaGoeken** [comment]
Thank you @j-loreaux for all the helpful changes! I did not know these suggested lemmas existed. I think I added all your suggested changes. :)

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 29]
```diff
@@ -0,0 +1,93 @@
...
+This file defines the Cantor ternary set and proves a few properties.
+
+## Main Definitions
+
+* `preCantorSet n`: The order `n` pre-Cantor set, defined inductively as the union of the images
+  under the functions `(· ‌/ 3)` and `(2 * · / 3)`, with `preCantorSet 0 := Set.Icc 0 1`
+  * `cantorSet`: The ternary Cantor set, defined as the intersection of all pre-Cantor sets.
+-/
+
+/-- We define the preCantorSet as the images under the iterations of some functions. -/
```
Comment (j-loreaux) [inline Mathlib/Topology/Instances/CantorSet.lean:24]: This still needs a better docstring. This comment was never addressed earlier from an earlier PR review.

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 30]
```diff
@@ -0,0 +1,93 @@
...
+  | succ n ih =>
+    refine IsClosed.union ?_ ?_
+    · simpa [f, div_eq_inv_mul] using f.closedEmbedding.closed_iff_image_closed.mp ih
+    · simpa [g, f, div_eq_inv_mul] using g.closedEmbedding.closed_iff_image_closed.mp ih
+
+/-- The ternary Cantor set is closed. -/
+lemma isClosed_cantorSet : IsClosed cantorSet := by
+  apply isClosed_iInter
+  intro n
+  apply isClosed_preCantorSet n
```
Comment (j-loreaux) [inline Mathlib/Topology/Instances/CantorSet.lean:89]:
```suggestion
lemma isClosed_cantorSet : IsClosed cantorSet :=
  isClosed_iInter isClosed_preCantorSet
```

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 31]
```diff
@@ -73,8 +73,8 @@ lemma cantorSet_subset_unitInterval : cantorSet ⊆ Set.Icc 0 1 :=
 
 /-- The ternary Cantor set is closed. -/
 lemma isClosed_cantorSet : IsClosed cantorSet := by
-  let f := Homeomorph.mulLeft₀ (1/3:ℝ) (by norm_num)
-  let g := (Homeomorph.addLeft (2:ℝ)).trans f
+  let f := Homeomorph.mulLeft₀ (1 / 3 : ℝ) (by norm_num)
```
Comment (jaklt) [inline Mathlib/Topology/Instances/CantorSet.lean:76]: Just a picky question: What's the point of rewriting `1/3` to `1 / 3`? I find the former to be more readable. Is it based on some convention for writing fractions?

File: Mathlib/Topology/Instances/CantorSet.lean (hunk 29 above)
Comment (jaklt) [reply Mathlib/Topology/Instances/CantorSet.lean]: Should be addressed now. Please check the newest version.

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 32]
```diff
@@ -0,0 +1,92 @@
...
+
+## Main Definitions
+
+* `preCantorSet n`: The order `n` pre-Cantor set, defined inductively as the union of the images
+  under the functions `(· / 3)` and `(2 * · / 3)`, with `preCantorSet 0 := Set.Icc 0 1`, i.e.
+  `preCantorSet 0` is the unit interval [0,1].
+* `cantorSet`: The ternary Cantor set, defined as the intersection of all pre-Cantor sets.
+-/
+
+/-- The definition of preCantorSet, as explained above. -/
```
Comment (mcdoll) [inline Mathlib/Topology/Instances/CantorSet.lean:25]: Could you copy the doc-string from above here, otherwise the hover-over is annoying.

Comment (jaklt) [reply Mathlib/Topology/Instances/CantorSet.lean:25]: You mean writing the definition of ``preCantorSet`` here again, i.e. having the same thing twice?

Comment (mcdoll) [reply Mathlib/Topology/Instances/CantorSet.lean:25]: Yes, this (modulo linebreak):
```suggestion
/-- The order `n` pre-Cantor set, defined inductively as the union of the images under the functions `(· / 3)` and `(2 * · / 3)`, with `preCantorSet 0 := Set.Icc 0 1`, i.e. `preCantorSet 0` is the unit interval [0,1]. -/
```

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 33]
```diff
@@ -0,0 +1,92 @@
...
+def preCantorSet : ℕ → Set ℝ
+  | 0 => Set.Icc 0 1
+  | n + 1 => (· / 3) '' preCantorSet n ∪ (fun x ↦ (2 + x) / 3) '' preCantorSet n
+
+@[simp] lemma preCantorSet_zero : preCantorSet 0 = Set.Icc 0 1 := rfl
+@[simp] lemma preCantorSet_succ (n : ℕ) :
+    preCantorSet (n + 1) = (· / 3) '' preCantorSet n ∪ (fun x ↦ (2 + x) / 3) '' preCantorSet n :=
+  rfl
+
+/-- The Cantor set is the intersection of all pre-Cantor sets. -/
```
Comment (mcdoll) [inline Mathlib/Topology/Instances/CantorSet.lean:35]: Also this could be more informative: The Cantor sets is the subset of the unit interval created by iteratively removing the open middle third of each interval. Or something along those lines.

File: Mathlib/Topology/Instances/CantorSet.lean (hunk 32 above)
Comment (j-loreaux) [reply Mathlib/Topology/Instances/CantorSet.lean:25]: @jaklt yes, it needs to be duplicated. The first one is for the website documentation so that someone reading only the top can comprehend what's going on. 

The do string on the `def` itself also goes on the website (so the info is duplicates there), but crucially, this docstring is also displayed when you hover over `preCantorSet` in VS Code, even in a different file. This is why it's important.

File: Mathlib/Topology/Instances/CantorSet.lean (hunk 33 above)
Comment (jaklt) [reply Mathlib/Topology/Instances/CantorSet.lean]: This is now addressed.

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 34]
```diff
@@ -0,0 +1,98 @@
...
+
+* `preCantorSet n`: The order `n` pre-Cantor set, defined inductively as the union of the images
+  under the functions `(· / 3)` and `(2 * · / 3)`, with `preCantorSet 0 := Set.Icc 0 1`, i.e.
+  `preCantorSet 0` is the unit interval [0,1].
+* `cantorSet`: The ternary Cantor set, defined as the intersection of all pre-Cantor sets.
+-/
+
+/-- The order `n` pre-Cantor set, defined starting from `[0, 1]` and successively removing the
+    middle third of each interval. Formally, after the order `n+1` pre-Cantor set is the
+    union of the images under the functions `(· / 3)` and `(2 * · / 3)` of ``preCantorSet n``.
```
Comment (j-loreaux) [inline Mathlib/Topology/Instances/CantorSet.lean:27]:
```suggestion
    middle third of each interval. Formally, the order `n + 1` pre-Cantor set is the
    union of the images under the functions `(· / 3)` and `(2 * · / 3)` of `preCantorSet n`.
```

**Review by j-loreaux — APPROVED** [review]
Thanks! Just one more issue with the docstring.

Please wait until CI finishes everything and the `awaiting-CI` label is automatically removed before merging this.

bors d+

**Comment by JanaGoeken** [comment]
bors d+

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 35]
```diff
@@ -0,0 +1,98 @@
...
+* `cantorSet`: The ternary Cantor set, defined as the intersection of all pre-Cantor sets.
+-/
+
+/-- The order `n` pre-Cantor set, defined starting from `[0, 1]` and successively removing the
+    middle third of each interval. Formally, the order `n + 1` pre-Cantor set is the
+    union of the images under the functions `(· / 3)` and `(2 * · / 3)` of `preCantorSet n`.
+-/
+def preCantorSet : ℕ → Set ℝ
+  | 0 => Set.Icc 0 1
+  | n + 1 => (· / 3) '' preCantorSet n ∪ (fun x ↦ (2 + x) / 3) '' preCantorSet n
```
Comment (Ruben-VandeVelde) [inline Mathlib/Topology/Instances/CantorSet.lean:31]: Am I confused or do the second functions not match up?

Comment (jaklt) [reply Mathlib/Topology/Instances/CantorSet.lean:31]: Yes, you're quite right.

Comment (jaklt) [reply Mathlib/Topology/Instances/CantorSet.lean:31]: Since this is wrong and the branch is now deleted, does it mean we have to create a new issue?

Comment (jaklt) [reply Mathlib/Topology/Instances/CantorSet.lean:31]: I've restored the branch and pushed the correction to it but the changes I made are not showing in this PR. Should I rather create a new PR?

Comment (riccardobrasca) [reply Mathlib/Topology/Instances/CantorSet.lean:31]: Yes, you can even create a new branch forgetting about this one.
